US07521446B2
trans-4-Dibenzylaminocyclohexanol
To a solution of trans-4-aminocyclohexanol (7.90 g., 68.5 mmol) in acetonitrile (150 mL), was added cesium carbonate (51.4 g., 157.5 mmol) and benzyl bromide (18.2 g., 143.8 mmol). The solution was stirred at ambient temperature for 16 hours. The solution was complete by LC-MS and the mixture filtered through a frit, washed with additional acetonitrile, and condensed under reduced pressure. The solid was partitioned between water and dichloromethane (500 mL) and dried over sodium sulfate, filtered and solvent removed under reduced pressure to afford the title compound (17.14 g, 85%). ES-MS (m/z) 296.5 [M+1]+.

reactant | trans-4-aminocyclohexanol | 68.5 mmol, 7.90 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | cesium carbonate | 157.5 mmol, 51.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 143.8 mmol, 18.2 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | trans-4-Dibenzylaminocyclohexanol | 17.14 g, 85% | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)O)CC1=CC=CC=C1 | C20H25NO
